US05376556
Antibody (2 mg) was dissolved in 2 ml of 1% NaHCO3 pH 8.6, and a 20-ul aliquot of a solution of 1 mg/ml 4-dimethylaminoazobenzene-4'-isothiocyanate in dimethylformamide (DMF) added. The mixture was stirred overnight, then desalted on a Sephadex G-25 (coarse) column (1×30 cm). The ultraviolet-and visible spectrum of the conjugate was compared to that of DAB and antibody alone, to determine the degree of substitution. An erythrosin-antibody conjugate was prepared the same way, except the concentration of the erythrosin-isothiocyanate in DMF was 2.5 mg/ml.

reactant | 4-dimethylaminoazobenzene-4'-isothiocyanate | CN(C)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)N=C=S | C15H14N4S
reactant | erythrosin-isothiocyanate | C1=CC2=C(C=C1N=C=S)C3(C4=CC(=C(C(=C4OC5=C(C(=C(C=C53)I)[O-])I)I)[O-])I)OC2=O.[Na+].[Na+]
solvent | NaHCO3 | 2 ml, pH 8.6 | C(=O)(O)[O-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | erythrosin | C=1C=CC2=C(C1)C(=O)OC23C=4C=C(C(=C(C4OC5=C3C=C(C(=C5I)O)I)I)O)I | C20H8I4O5
